US08754114B2
N-(Pyridin-3-ylmethyl)-3-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzamide
This compound was prepared by using procedures analogous to those described for the synthesis of Example 1 starting from 3-{1-[3-({[(2,2,2-trifluoroethyl)amino]-carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzoic acid and picolamine (Aldrich Cat. No. A65409). LCMS (M+H)+: m/z=545.2.

reactant | 3-{1-[3-({[(2,2,2-trifluoroethyl)amino]-carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzoic acid | FC(CNC(=O)NC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C=2C=C(C(=O)O)C=CC2)(F)F | C23H17F3N4O3
reactant | picolamine | C1=CC(=CN=C1)CN | C6H8N2
product | N-(Pyridin-3-ylmethyl)-3-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzamide | N1=CC(=CC=C1)CNC(C1=CC(=CC=C1)C1=CC2=C(N(C=N2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)C=C1)=O | C29H23F3N6O2
